US07893056B2
To a solution of (2R,5S)-2,5-dimethylpiperazine (commercially available) (3.495 g, 30 mmol) in dichloromethane (25 mL) at 0° C. was added triethylamine (3.76 mL, 27 mmol) followed by dropwise benzyl chloroformate (4.0 mL, 27 mmol). The reaction mixture was allowed to warm to room temperature and stirred overnight. The solvent was then evaporated to dryness. The residue was taken up in aqueous 1N HCl solution and washed with EtOAc. The organic layer was extracted with 1N HCl solution twice and the combined aqueous layers were basicified with 6N NaOH to ˜pH 11. The resulting basic aqueous solution was extracted with EtOAc three times. The combined organic layers were washed with brine, dried (MgSO4) and evaporated to yield phenylmethyl trans-2,5-dimethyl-1-piperazinecarboxylate (enantiomeric mixture) (1.35 g, 18%). LCMS: (M+H)+: 249.1.

reactant | (2R,5S)-2,5-dimethylpiperazine | C[C@H]1NC[C@@H](NC1)C | C6H14N2
reactant | triethylamine | 27 mmol, 3.76 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 27 mmol, 4.0 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | phenylmethyl trans-2,5-dimethyl-1-piperazinecarboxylate | 1.35 g, 18% | C[C@@H]1N(C[C@H](NC1)C)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
